
.global b
.subckt nfet2x d g s b
.param p1=2
    MN0 d g n1 b    sky130_fd_pr__nfet_01v8 L=1.4000e-08 nfin=12 nf=p1
    MN1 n1 g s b    sky130_fd_pr__nfet_01v8 L=1.4000e-08 nfin=12 nf=p1
.ends nfet2x

.subckt pfet2x d g s b
.param p1=2
    MP0 d g n1 b    sky130_fd_pr__pfet_01v8 L=1.4000e-08 nfin=12 nf=p1
    MP1 n1 g s b    sky130_fd_pr__pfet_01v8 L=1.4000e-08 nfin=12 nf=p1
.ends pfet2x

.subckt adder n1 n2 vin vout vps vgnd
.param cc=48f nfpf=4 rb=20K rl=500

    xI0 vout vbn1 vgnd vgnd nfet2x p1=nfpf
    xI1 vout vbp1 vps vps pfet2x p1=nfpf
    R0 vbn1 n1 rb
    C0 vin vbn1 cc
    R1 vbp1 n2 rb
    C1 vin vbp1 cc
    R2 vps vout rl
.ends adder
